US07662825B2
2,3-Dichloro-N-[5-(2-chlorobenzylsulphanyl)-3-methoxy-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 82 using 2-chlorobenzylmercaptan (0.15 g) and N-(5-bromo -3-methoxy-2-pyrazinyl)-2,3-dichloro-N-[{2-(trimethylsilanyl)ethoxy}methyl]benzenesulphonamide (0.4 g). Yield 0.18 g.

reactant | 2-chlorobenzylmercaptan | 0.15 g | ClC1=C(CS)C=CC=C1 | C7H7ClS
reactant | N-(5-bromo -3-methoxy-2-pyrazinyl)-2,3-dichloro-N-[{2-(trimethylsilanyl)ethoxy}methyl]benzenesulphonamide | 0.4 g | BrC=1N=C(C(=NC1)N(S(=O)(=O)C1=C(C(=CC=C1)Cl)Cl)COCC[Si](C)(C)C)OC | C17H22BrCl2N3O4SSi
product | 2,3-Dichloro-N-[5-(2-chlorobenzylsulphanyl)-3-methoxy-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OC)SCC1=C(C=CC=C1)Cl | C18H14Cl3N3O3S2
